US04775758
(1) 1,3-Dioctyl-2-benzylglycerin
In a mixed solution consisting of 50 ml of DMSO and 30 ml of THF were dissolved 3.64 g (20 mmole) of 2-benzylglycerin and 9.26 g (48 mmole) of octyl bromide, and 8.96 g (160 mmole) of powdered potassium hydroxide was added to the solution, followed by vigorous stirring. Two hours later, the reaction solution was poured in cold water, and the mixture was extracted with n-hexane. The extract was washed with water, dried and concentrated, followed by purification by silica-gel chromatography (eluent: n-hexane-ethyl acetate, 20:1) to give 6.22 g (77%) of the desired compound as colorless liquid.

reactant | DMSO | 50 ml | CS(=O)C | C2H6OS
reactant | 2-benzylglycerin | 20 mmole, 3.64 g | C(C1=CC=CC=C1)OC(CO)CO | C10H14O3
reactant | octyl bromide | 48 mmole, 9.26 g | C(CCCCCCC)Br | C8H17Br
reactant | potassium hydroxide | 160 mmole, 8.96 g | [OH-].[K+]
solvent | water | O | H2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 1,3-Dioctyl-2-benzylglycerin | 6.22 g, 77% | C(CCCCCCC)OCC(OCC1=CC=CC=C1)COCCCCCCCC | C26H46O3
